US08039463B2
Ammonium chloride (214 mg, 4 mmol) in water (5 mL) was added to a stirred solution of 3-(4-nitro-phenyl)-[1,2,4]oxadiazole (200 mg, 1 mmol) in THF (15 mL). Zinc powder (262 mg, 4 mmol) was then added portion wise. The reaction was stirred at room temperature for 1 hour and then refluxed at 65° C. for 5 hours. The mixture was filtered over celite, the filtrate was evaporated and the residue was extracted with ethyl acetate. The ethyl acetate was washed with brine solution, dried over Na2SO4 and evaporated to afford 155 mg (92%) of 4-[1,2,4]oxadiazol-3-yl-phenylamine. 1H NMR: (DMSO-d6): δ 9.5 (s, 1H), 7.7 (d, 2H), 6.7 (d, 2H), 5.8 (s, 2H).

reactant | Ammonium chloride | 4 mmol, 214 mg | [Cl-].[NH4+]
reactant | 3-(4-nitro-phenyl)-[1,2,4]oxadiazole | 1 mmol, 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=NOC=N1 | C8H5N3O3
solvent | water | 5 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 4 mmol, 262 mg | [Zn] | Zn
product | 4-[1,2,4]oxadiazol-3-yl-phenylamine | 155 mg, 92% | O1N=C(N=C1)C1=CC=C(C=C1)N | C8H7N3O
